US06939871B2
6-(4-Pyridyl)-4H-benzo[1,4]oxazin-3-one (D13)
A mixture of 6-bromo-4H-benzo[1,4]oxazin-3-one [N. Mazharuddin et al., Indian J. Chem. 1969, 7, 658] (1.37 g. 6 mmol), pyridine-4-boronic acid (0.72 g, 6 mmol), sodium bicarbonate (1.51 g, 18 mmol), (tetrakis-triphenylphosphine)palladium (0) (348 mg, 0.3 mmol) in water (18 mL), and 1,2-dimethoxyethane (30 mL), was stirred at reflux under an argon atmosphere for 72 h. Reaction mixture was cooled and partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was separated and dried (Na2SO4) and evaporated in vacuo to give a brown solid which was purified by chromatography on silica gel (30 g) eluting with 0-5% MeOH in EtOAc to give the title compound (0.58 g, 43%) as a yellow solid.

reactant | 6-bromo-4H-benzo[1,4]oxazin-3-one | 6 mmol, 1.37 g | BrC=1C=CC2=C(NC(CO2)=O)C1 | C8H6BrNO2
reactant | pyridine-4-boronic acid | 6 mmol, 0.72 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium bicarbonate | 18 mmol, 1.51 g | C([O-])(O)=O.[Na+]
reactant | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | 18 mL | O | H2O
product | 6-(4-Pyridyl)-4H-benzo[1,4]oxazin-3-one | 0.58 g, 43% | N1=CC=C(C=C1)C=1C=CC2=C(NC(CO2)=O)C1 | C13H10N2O2
